US06939871B2
Crotonaldehyde (28 mL, 0.33 mol) was added dropwise to a refluxing solution of 3,5-difluoroaniline (10.75 g, 0.083 mol) in 5 N hydrochloric acid (450 mL) and reflux was continued for a further 0.5 h. Reaction mixture was cooled, diluted with water (200 mL) and washed with ether (200 mL). The aqueous layer was basified (pH 14) with 50% NaOH (aq) and extracted into MDC (3×200 mL). The combined organic phases were dried (Na2SO4) and evaporated in vacuo to give a dark oil which was purified by chromatography on silica gel (˜100 g) with 50-100% ethyl acetate in hexane gradient elution to give 5,7-difluoro-2-methylquinoline as a brown solid (6.57 g, 44%). A mixture of 5,7-difluoro-2-methylquinoline (1.0 g, 5.6 mmol) and sodium methoxide (1.69 g, 30 mmol) in methanol (50 mL), was stirred at reflux for 18 h, cooled, and most of the methanol removed in vacuo. The residue was partitioned between ethyl acetate (100 mL), and water (100 mL). The organic phase was dried (Na2SO4) and evaporated in vacuo to give a brown oil which was purified by chromatography on silica gel (˜60 g) with 20-30% ethyl acetate hexane gradient elution to give a yellow solid (0.57 g) which was suspended in 48% HBr (aq) (5 mL) and heated at reflux for 18 h. Reaction mixture was cooled and evaporated in vacuo to give the title compound as a brown solid (0.67 g, 46%).

reactant | Crotonaldehyde | 0.33 mol, 28 mL | C(\C=C\C)=O | C4H6O
reactant | 3,5-difluoroaniline | 0.083 mol, 10.75 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
solvent | hydrochloric acid | 5 N, 450 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 5,7-difluoro-2-methylquinoline | 6.57 g, 44% | FC1=C2C=CC(=NC2=CC(=C1)F)C | C10H7F2N
